US04404137
4-(7-Fluoro-2,10-dihydro-2-methyl-pyrazolo[3,4-b][1,5]benzodiazepin-4-yl)-1-methyl piperazine-1-oxide monohydrate
7-Fluoro-2,10-dihydro-2-methyl-4-(4-methyl-1-piperazinyl)-pyrazolo[3,4-b][1,5]benzodiazepine (2.0 g) was stirred in dichloromethane (50 ml) at 0°-5° C. whilst m-chloroperbenzoic acid (1.5 g) was added in portions. The solution was stirred for 30 minutes then filtered through a column of basic alumina, eluting with 9:1 chloroform:methanol to give, after removal of the solvent and crystallisation from acetonitrile-diethyl ether, the title compound m.p. 228°.

reactant | 7-Fluoro-2,10-dihydro-2-methyl-4-(4-methyl-1-piperazinyl)-pyrazolo[3,4-b][1,5]benzodiazepine | 2.0 g | FC=1C=CC2=C(N=C(C=3C(N2)=NN(C3)C)N3CCN(CC3)C)C1 | C16H19FN6
reactant | m-chloroperbenzoic acid | 1.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(7-Fluoro-2,10-dihydro-2-methyl-pyrazolo[3,4-b][1,5]benzodiazepin-4-yl)-1-methyl piperazine-1-oxide monohydrate | O.FC=1C=CC2=C(N=C(C=3C(N2)=NN(C3)C)N3CC[N+](CC3)(C)[O-])C1 | InChI=1S/C16H19FN6O.H2O/c1-21-10-12-15(20-21)18-13-4-3-11(17)9-14(13)19-16(12)22-5-7-23(2,24)8-6-22;/h3-4,9-10H,5-8H2,1-2H3,(H,18,20);1H2
